US08278442B2
Preparation 74: 6-(4-Formylbenzofuran-7-yloxy)nicotinonitrile
Using the procedure outlined in Preparation 70, 7-hydroxybenzofuran-4-carbaldehyde (preparation 73) and 6-chloronicotinonitrile gave the title compound: RT=3.40 min; m/z (ES+)=265.2 [M+H]+.

reactant | 7-hydroxybenzofuran-4-carbaldehyde | OC=1C=CC(=C2C=COC21)C=O | C9H6O3
reactant | 6-chloronicotinonitrile | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
product | 6-(4-Formylbenzofuran-7-yloxy)nicotinonitrile | C(=O)C1=CC=C(C2=C1C=CO2)OC2=NC=C(C#N)C=C2 | C15H8N2O3
